data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3891,4451,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][N-:16][C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][N:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,16.875966695227245,-39.21642139137384
2779,3089,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C:24](=[O+:25][C-:26]([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[NH:32][CH3:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:26]([C:27]([CH3:28])=[O:29])([C:30](=[O:31])[NH:32][CH3:33])[O:25][C:24]2([C:22]([NH:21][CH3:20])=[O:23])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,6.151776557004178,-65.38973221158443
2682,2980,[CH3:15][NH:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[N:19]([C:17]([NH:16][CH3:15])=[O:18])[NH:20][C:21]2([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,23.439193670881487,-37.0513221376876
72,83,[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6].[N:7]#[C:8][CH:9]=[O+:10][CH-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[CH:9]([C:8]#[N:7])[O:10][CH:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,9.462376475896525,-77.0831058154325
3587,4094,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[C:18]#[N:19],water,298.15,20.81387825348761,-36.51422902313504
4576,5221,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([N+:12]#[C:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[N:12]=[C:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,9.722830906709376,-33.43547926313481
4172,4775,[CH3:9][n+:10]1[c:11]([C:12]#[N:13])[o:14][c:15](=[O:16])[c-:17]1-[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:17]2([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[N:10]([CH3:9])[C:11]1([C:12]#[N:13])[O:14][C:15]2=[O:16],water,298.15,22.32961073207121,-5.354044534079812
4516,5151,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:11]([CH3:10])=[O:12])=[N:14][C:15]1([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,12.820712529394743,-25.51536427727888
1534,1694,[CH3:17][C:18](=[O:19])[C-:20]([C:21]([CH3:22])=[O:23])[N+:24]([CH3:25])=[CH:26][C:27]#[N:28].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[C:20]([C:18]([CH3:17])=[O:19])([C:21]([CH3:22])=[O:23])[N:24]([CH3:25])[CH:26]3[C:27]#[N:28],water,298.15,17.177305110002543,-39.87082237476736
1461,1609,[CH3:18][NH:19][C:20](=[O:21])[C-:22]([CH3:23])[NH+:24]=[CH:25][C:26]#[N:27].[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([C:9]([CH3:10])=[O:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([C:9]([CH3:10])=[O:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([CH3:23])[NH:24][CH:25]1[C:26]#[N:27],water,298.15,18.06398928539057,-3.842988348609969
1800,1992,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]([CH3:17])=[C:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:18]([CH3:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:16]([CH3:17])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,26.71933159356131,-35.92848070982097
